US05519034
6-Chloro-7-methoxy-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline (1.38 g prepared in a similar manner to that described in Example 59) which was dissolved in acetone (50 ml) and stirred with anhydrous potassium carbonate (1.16 g) and allyl iodide (0.78 g) for one hour. The mixture was filtered and the filtrate concentrated and partitioned between water and ether. The ether layer yielded an oil which was taken up in dichloromethane (30 ml) and cooled to -70° C. A 1M solution of boron tribromide in dichloromethane (11 ml) was added dropwise and the mixture allowed to warm to ambient temperature. After two hours the mixture was cooled to -60° C. and methanol (30 ml) was added cautiously. The solvents were removed and the residue decolourised with charcoal in methanol. Removal of the solvent gave a residue which was recrystallised from a mixture of propan-2-ol and ether to give 2 -allyl-6-chloro-7-hydroxy-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide, m.p. 194°-196° C.

reactant | 6-Chloro-7-methoxy-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C2CCNC(C2=CC1OC)C1(CCC1)C1=CC=CC=C1 | C20H22ClNO
reactant | potassium carbonate | 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 0.78 g | C(C=C)I | C3H5I
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | 2 -allyl-6-chloro-7-hydroxy-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.C(C=C)N1C(C2=CC(=C(C=C2CC1)Cl)O)C1(CCC1)C1=CC=CC=C1 | InChI=1S/C22H24ClNO.BrH/c1-2-12-24-13-9-16-14-19(23)20(25)15-18(16)21(24)22(10-6-11-22)17-7-4-3-5-8-17;/h2-5,7-8,14-15,21,25H,1,6,9-13H2;1H
